US09428465B2
Step 2. Preparation of 5-phenylpentan-1-amine
Hydrazine monohydrate (0.36 g, 7.2 mmol) was added to a solution of 2-(5-phenylpentyl)isoindoline-1,3-dione (0.68 g, 2.3 mmol) in 25 mL of EtOH. The solution was stirred under reflux for 5 hrs and then cooled to room temperature. The white precipitate was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was dissolved in a 1N solution of NaOH (80 mL) and extracted with chloroform (3×70 mL). The combined organic layers were washed with brine, dried over Na2SO4 and the solvent was removed under reduced pressure. The crude was purified by column chromatography using a Teledyne ISCO apparatus (solid deposition with TEA, eluent: 20% MeOH in dichloromethane with 1% of TEA) to afford the title compound (0.28 g, 73%) as a white solid. 1H NMR (400 MHz, CDCl3): 1.37-1.48 (m, 2H), 1.58-1.72 (m, 4H), 2.57-2.69 (m, 2H), 3.29 (t, J=6.70 Hz, 2H), 7.13-7.24 (m, 3H), 7.26-7.34 (m, 2H).

reactant | Hydrazine monohydrate | 7.2 mmol, 0.36 g | O.NN
reactant | 2-(5-phenylpentyl)isoindoline-1,3-dione | 2.3 mmol, 0.68 g | C1(=CC=CC=C1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C19H19NO2
solvent | EtOH | 25 mL | CCO | C2H6O
product | 5-phenylpentan-1-amine | 0.28 g, 73% | C1(=CC=CC=C1)CCCCCN | C11H17N
